US06927230B2
A mixture of 2-(4-methoxybenzoyl)-2-(4-methoxyphenyl)hydrazinecarbothioamide (200 mg, 0.604 mmol) in 10% potassium hydroxide solution (2 mL)-ethanol (1 mL) was refluxed for 4 hours. After cooling, the mixture was adjusted pH to ca. 2 and a generated precipitate was isolated by filtration, washed with water, and dried in vacuo to give 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol (52 mg, 27.5% yield).

reactant | 2-(4-methoxybenzoyl)-2-(4-methoxyphenyl)hydrazinecarbothioamide | 0.604 mmol, 200 mg | COC1=CC=C(C(=O)N(NC(N)=S)C2=CC=C(C=C2)OC)C=C1 | C16H17N3O3S
reactant | ethanol | 1 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 2 mL | [OH-].[K+]
product | 1,5-bis(4-methoxyphenyl)-1H-1,2,4-triazole-3-thiol | 52 mg, 27.5% yield | COC1=CC=C(C=C1)N1N=C(N=C1C1=CC=C(C=C1)OC)S | C16H15N3O2S
